US06689922B1
7-[3-(3,4-bis-Hydroxymethylbenzyloxy)phenyl]-3-ethyl-3-octanol
220 mg (0.48 mmol) of dimethyl 4-[3-(5-ethyl-5-hydroxy-1-methylheptyl)phenoxymethyl]phthalate are dissolved in 15 ml of anhydrous THF. 42 mg (1.9 mmol) of lithium borohydride are then added and the reaction medium is heated under reflux for 12 hours. After cooling, treating with a saturated ammonium chloride solution and extracting with ethyl acetate, the organic phase is dried and concentrated under reduced pressure. The residue is then purified by chromatography on a silica column. A colourless oil is obtained (m=132 mg; Y=75%).

reactant | dimethyl 4-[3-(5-ethyl-5-hydroxy-1-methylheptyl)phenoxymethyl]phthalate | 0.48 mmol, 220 mg | C(C)C(CCCC(C)C=1C=C(OCC=2C=C(C(C(=O)OC)=CC2)C(=O)OC)C=CC1)(CC)O | C27H36O6
reactant | lithium borohydride | 1.9 mmol, 42 mg | [BH4-].[Li+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 7-[3-(3,4-bis-Hydroxymethylbenzyloxy)phenyl]-3-ethyl-3-octanol | OCC=1C=C(COC=2C=C(C=CC2)C(CCCC(CC)(O)CC)C)C=CC1CO | C25H36O4
